US07572809B2
Similar procedure as described in example 400 was used, starting from cyclopentanol and of 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide to give 1-Cyclopentyloxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide, LC-MS: m/e 410(MH+).

reactant | cyclopentanol | C1(CCCC1)O | C5H10O
reactant | 1-Chloro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide | CN(C(=O)C1=C(C=C2C=C(N=C(C2=C1)Cl)NC1=NNC(=C1)C)OC)C | C17H18ClN5O2
product | 1-Cyclopentyloxy-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-7-carboxylic acid dimethylamide | CN(C(=O)C1=C(C=C2C=C(N=C(C2=C1)OC1CCCC1)NC1=NNC(=C1)C)OC)C | C22H27N5O3
